### PR TITLE
Refactoring

### PR DESCRIPTION
**Pull request by aferr**
The goal of this refactor is to support:
- keeping around more than one definition of low-equivalence / low-projection and some of the lower-level theorems about those
        (though they might not really be hot-swappable in the top-level proofs since some properties will be available with one 
        set of definitions but not in the other)
- having multiple runtime models that can benefit from some common definitions
- having multiple security properties and disconnecting the property definitions from the models that have them.

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -144,6 +144,7 @@ Proof.
     exists (nodes s id); split; eauto.
 Qed.
 
+
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:147]: nit:extra line

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 2]
```diff
@@ -344,5 +355,37 @@ Proof.
     - (* nid <> id *)
         rewrite upd_neq; auto.
 Qed.
+
+Theorem chan_state_fe: forall ell chs1 chs2,
+    (forall h, low_eq ell chs1.[?h] chs2.[?h]) ->
+    chan_state_low_eq ell chs1 chs2.
+Proof.
+    (* shouldn't be needed after change to state loweq defs *)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:363]: Is this an upcoming change, or is the lemma already unneeded?

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 3]
```diff
@@ -245,26 +247,35 @@ Proof.
...
-    (head_st t2 = Some s2) ->
-    (trace_low_eq ell t1 t2) ->
-    (state_low_eq ell s1 s2).
+Lemma state_low_eq_implies_node_lookup_eq ell s1 s2 :
+  state_low_eq ell s1 s2 ->
+  forall id,
+    (nodes (state_low_proj ell s2)).[? id]
+    = (nodes (state_low_proj ell s1)).[? id].
+Proof.
+  cbv [state_low_proj state_low_eq node_state_low_proj fnd].
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:256]: Might be worth considering using `autounfold` for this set of definitions. That would look like putting `Hint Unfold state_low_proj state_low_eq node_state_low_proj fnd : projdefs` somewhere, and then calling `autounfold with projdefs` or `autounfold with projdefs in *` when you want them all unfolded.

**Review by jadephilipoom — APPROVED** [review]
LGTM!

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 2 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: I wound up just proving this instead of getting rid of it.
